Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / cortisone
 
Attending: ___.
 
Chief Complaint:
Jaundice
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
PCP: Dr ___
===========================
___ with hx CAD s/p stenting presenting as a transfer from ___ 
with choledocolithiasis and abscess. Had been in his usual state 
of health until five days prior to presentation when he 
developed chills and violent emesis. He stayed home the day 
after. The following day his urine turned dark. One day later 
his co-workers told him he was yellow. He went to Urgent Care 
where they checked his labs and it was 5.4. He was scheduled for 
an MRI two days later. Up to this time he had been pain free. 
The next evening/last night he developed ___ b/l upper 
quadrant pain. He went ___ concerned that it might be his heart. 
At ___ his bilirubin had increased to 8. He had a CT scan 
performed.  He notes that his pain was worse when he took a deep 
breath. No shortness of breath,  chills, nausea, vomiting, bowel 
movement changes (He moves his bowels every 4 days) He did not 
have diarrhea. .. No pain currently. No complaints except for 
being hungry. +dark urine. At OSH: 
CXR: No acute cardiopulmonary disease
CT a/p: Cholelithiasis, secondary signs compatible with acute 
cholecystitis with possible walled off perforation and abscess 
formation. Choledocholithiasis
.
Patient received Levaquin and Flagyl prior to transfer. 
Transferred for interventional radiology and ERCP
.
___ ED course: Triage VS: | 0 | 98.7 | 76 | 155/91| 18 | 96% 
RA |
___ 23:00 IV MetroNIDAZOLE 500 mg ___  
___ 23:00 IVF 1000 mL NS  ___ Started 200 
mL/hr 
Labs significant for WBC of 11.6, hgb 16.1, hematocrit 50.1, 
platelets 148
___ 13.6, INR 1.0
AST 102, ALT 170, AP 195, lipase 756, T. bili 8.2, lactate 0.9
Chem 7 WNL except glu 173
Negative trop x3, lactate 0.9
Seen by ACS in the ED who did not think that his presentation 
was c/w perforated GB and thus preferred him to be admitted to 
medicine for ERCP. 

REVIEW OF SYSTEMS: ___ 
 CONSTITUTIONAL:  As per HPI
 HEENT:  [X] All normal
 RESPIRATORY:  [X] All normal
 CARDIAC:  [X] All normal
 GI:  As per HPI
 GU:  [X] All normal
 SKIN:  [+] jaundice
 MUSCULOSKELETAL:  [X] All normal
 NEURO:  [X] All normal
 ENDOCRINE:  [X] All normal
 HEME/LYMPH:  [X]  All normal
 PSYCH:  [X] All normal

All other systems negative except as noted above
 
Past Medical History:
CAD s/p stenting
Multiple MIs per ___ records
L ankle fracture repair
? Heart disease requiring open heart surgery which pt declined 
but it was not obstructive CAD per patient

 
Social History:
___
Family History:
His mother died of heart failure and paralysis in her late ___ / 
early ___.  His father died of prostate cancer in his late ___. 
 
Physical Exam:
Vitals:  T 98.3  P 65  BP 132/80  RR 16  SaO2 95% on RA 
 CONS: NAD, comfortable appearing  
 HEENT: ncat MMM deep icterus
 CV: s1s2 rr no m/r/g  
 RESP: b/l ae no w/c/r  
 GI: +bs, soft, NT, ND, no guarding or rebound  
 back:  
 MSK:no c/c/e 2+pulses  
 SKIN: diffuse scaly skin on b/l upper and lower extremities- 
chronic per patient. Pt would not allow me to examine his feet. 
Pulses appreciated through his socks
 NEURO: face symmetric speech fluent  
 PSYCH: calm, cooperative  
LAD: No cervical LAD
 
Pertinent Results:
___ 08:20PM URINE  HOURS-RANDOM
___ 08:20PM URINE  HOURS-RANDOM
___ 08:20PM URINE  UHOLD-HOLD
___ 08:20PM URINE  GR HOLD-HOLD
___ 08:20PM URINE  COLOR-DkAmb APPEAR-Hazy SP ___
___ 08:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-100 KETONE-40 BILIRUBIN-MOD UROBILNGN-4* PH-6.0 LEUK-MOD
___ 08:20PM URINE  RBC-1 WBC-33* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 08:04PM   ___ PTT-33.4 ___
___ 07:44PM   LACTATE-1.3
___ 07:27PM   GLUCOSE-127* UREA N-11 CREAT-0.8 SODIUM-136 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-26 ANION GAP-14
___ 07:27PM   estGFR-Using this
___ 07:27PM   ALT(SGPT)-137* AST(SGOT)-79* ALK PHOS-194* 
TOT BILI-11.0*
___ 07:27PM   LIPASE-907*
___ 07:27PM   ALBUMIN-3.4*
___ 07:27PM   WBC-7.7 RBC-5.01 HGB-14.6 HCT-42.2 MCV-84 
MCH-29.1 MCHC-34.6 RDW-13.2 RDWSD-40.3
___ 07:27PM   NEUTS-70.2 LYMPHS-16.4* MONOS-11.9 EOS-0.3* 
BASOS-0.4 IM ___ AbsNeut-5.39 AbsLymp-1.26 AbsMono-0.91* 
AbsEos-0.02* AbsBaso-0.03
___ 07:27PM   PLT COUNT-114*

Discharge Labs
___ 06:33AM BLOOD WBC-8.7 RBC-4.77 Hgb-14.0 Hct-40.3 MCV-85 
MCH-29.4 MCHC-34.7 RDW-13.0 RDWSD-39.8 Plt ___
___ 06:33AM BLOOD Glucose-88 UreaN-11 Creat-0.7 Na-134 
K-3.7 Cl-99 HCO3-27 AnGap-12
___ 06:33AM BLOOD ALT-73* AST-33 AlkPhos-158* TotBili-3.1*
=================
OSH Imaging:
ABDOMINAL CT:
Cholelithiasis, secondary signs compatible with acute 
cholecystitis with possible wall off perforation and abscess 
formation. Choledolithiasis. 

ERCP 
Limited exam of the esophagus was normal 
 
Stomach: Limited exam of the stomach was normal 
 
 Excavated Lesions Multiple non-bleeding patchy erosions were 
seen in the first part of the duodenum.  
 
Major Papilla: A slightly bulging and fluffy major papilla was 
noted. .  

Cannulation:  Cannulation of the biliary duct was successful and 
deep with a sphincterotome using a free-hand technique. Contrast 
medium was injected resulting in complete opacification. The 
procedure was not difficult.  
 

Biliary Tree: A moderate diffuse dilation was seen at the main 
duct with the CBD measuring 12 mm, the intrahepatic bile ducts 
were mildly dilated.   

Procedures: A sphincterotomy was performed in the 12 o'clock 
position using a sphincterotome over an existing guidewire. No 
evidence of post sphincterotomy bleeding was noted
Cold forceps biopsies were performed for histology at the major 
papilla .  
 

Impression: (cannulation)
Bulging of the major papilla
 (sphincterotomy, biopsy)
Biliary dilation
Erosions in the first part of the duodenum
Otherwise normal ercp to third part of the duodenum 

Recommendations: NPO overnight with aggressive IV hydration with 
LR at 200 cc/hr If no abdominal pain in the morning, advance 
diet to clear liquids and then advance as tolerated Recommend 
surgical evaluation for possible cholecystectomy.
Return to ward under ongoing care.
No aspirin, Plavix, NSAIDS, Coumadin for 5 days.
Continue with antibiotics - Ciprofloxacin 500mg BID x 5 days.
Follow up with cytology reports. Please call Dr. ___ 
___ ___ in 7 days for the pathology results.
Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call ___ 

Additional notes: The procedure was performed by Dr. ___ 
___ the GI fellow. The attending was present for the entire 
procedure. FINAL DIAGNOSES are listed in the impression section 
above. Estimated blood loss = zero. Specimens were taken for 
pathology as listed above. \

Outside hospital CT scan result
CT a/p: Cholelithiasis, secondary signs compatible with acute
cholecystitis with possible walled off perforation and abscess
formation. Choledocholithiasis

 
Brief Hospital Course:
The patient is a ___ year old male with h/o MI, diet controlled 
DM who presents with jaundice, abdominal pain. CT scan showed ? 
of cholecystitis and walled off abscess, but patient's exam and 
lab findings not consistent with this.

1.  Painless Jaundice:  His bilirubin fell from 11 to 6 even 
before he had his ERCP, which showed a bulging papilla.  
Biopsies were taken, but this likely represents the passage of 
gallstones.    He will need a cholecystectomy and he would like 
to have that done at ___.  Discharge summary given to patient so 
that he may present it to surgeon.  
2.  ? of cholecystitis:  He was seen by our surgery service who 
advised outpatient CCY.  We will finish a 1 week course of 
ciprofloxacin and flagyl.
3.  CAD:   Continue home dose of metoprolol  
4.  Mild thrombocytopenia:  stable, no stigmata of bleeding or 
bruising.  Unclear what his past values are.  This DC summary 
will be faxed to his PCP so comparison of values can be made. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Ciprofloxacin HCl 500 mg PO Q12H 
3. MetroNIDAZOLE 500 mg PO Q8H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.   Jaundice, likely due to passage of gallstones
2.   ? cholecystitis
3.  Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted because you developed jaundice; you had a 
procedure called an ERCP and we suspect that you became 
jaundiced because you had passed some gallstones.  You were 
started on antibiotics for possible infection in your 
gallbladder; please finish five more days of these antibiotics.  
Please do not drink any alcohol while you take the antibiotic 
flagyl.  You should have your gallbladder removed to prevent the 
passage of more gallstones.   Please call Dr. ___ 
___ in 7 days for the pathology results (for the 
samples obtained during your ERCP)
You may restart your aspirin on ___
 
Followup Instructions:
___